US05521180
4-Fluoro-7-hydroxy-1-indanone (1.0 g) was dissolved in acetic acid (15 ml) and the solution was stirred with 10% palladium-on-carbon (0.5 g) in a hydrogen atmosphere at atmospheric pressure for 12 hours. The catalyst used was removed by filtration using Celite, and the filtrate was concentrated to give 7-fluoro-4-indanol (0.783 g).

reactant | 4-Fluoro-7-hydroxy-1-indanone | 1.0 g | FC1=C2CCC(C2=C(C=C1)O)=O | C9H7FO2
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-carbon | 0.5 g | [Pd] | Pd
product | 7-fluoro-4-indanol | 0.783 g | FC1=CC=C(C=2CCCC12)O | C9H9FO
